*****************************************************************
* Nexperia BUK7D25-40E
*
* Polarity N-Channel
* Ratings 40V/1.800000E-002OHMS/8A
*
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7D25-40E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-05
LG GATE 1 6.70235700490966e-10
RLG GATE 1 1.68448604226882
LS SOURCE 8 2.33717580716139e-10
RLS2 SOURCE 8 0.587396347674081
RLS1 8 7 0.00555536978586697

RDS 7 4 3809523809.52381 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0159507485915051 TC=0.00514763216708574,-9.38298028000951E-08
RBD 9 4 0.00324761355267187 TC=0.00514763216708574,-9.38298028000951E-08
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 12345679012.3457
CGS 2 6 3.9588e-10
RG 1 2 1.7

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ 0	0
+ 0.01	245.2
+ 0.1	231.09
+ 0.2	216.92
+ 0.5	176.43
+ 1	137.75
+ 2	111.83
+ 3	99.986
+ 4	92.626
+ 5	87.575
+ 6	83.661
+ 8	77.889
+ 10	73.72
+ 12	70.449
+ 15	66.514
+ 20	61.477
+ 32	53.489
+ 40	49.949



.MODEL MINT NMOS(Vto=4.29544217960985 Kp=1.747880e+002 Nfs=1130000000000 Eta=2000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=500)

.MODEL DBD D(Bv=44.61 Ibv=2.500000E-004 Rs=1E-6 Is=3.90692656394662e-13
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=3.58075502e-10 Tt=1.85e-08)

.ENDS

