* D:\Projekte\ELController\ltspice model\output dampening.asc
V1 N001 0 PULSE(0V 170V 0 0 0 10us 20us)
C1 N003 0 6µF
C2 N004 0 16µF
L1 N003 N004 3µH
R1 N004 0 200k
R2 N005 N005 1
C3 N004 N005 47nF
R3 N002 N001 1
D1 N002 N003 D
C4 N005 0 47nF
.model D D
.lib C:\users\christian\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100ms
.backanno
.end
