* RQ3E100BN NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2012/06/19
******************D G S
.SUBCKT RQ3E100BN 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 1.59m
D2       22 11 DDG
R2        2 22 4.5
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=212.684E-6
+ RS=5.0000E-3
+ RD=0
+ VTO=2.3536
+ RDS=30.000E6
+ TOX=2.0000E-6
+ CGSO=961p
+ CGDO=60p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.4
+ ETA=0.001
+ KAPPA=0
+ NFS=20G
.MODEL DDS D
+ IS=2.0494E-12
+ N=1.0073
+ RS=1.1187E-3
+ IKF=2.4920
+ CJO=181.49E-12
+ M=.6657
+ VJ=.80455
+ BV=30
+ TT=12.4n
.MODEL DDG D
+ CJO=545.75E-12
+ M=.8291
+ VJ=.77779
+ N=10000
+ FC=-1.5
.MODEL RTH RES
+ TC1=0.036
+ TC2=0.00012
.ENDS RQ3E100BN
