* RQ3G100GN NMOSFET model
* PKG: HSMT8,Vdss=40V,Id=10A
* Rds(on)11mƒ¶,Qg=8.4nC
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2015/07/23
******************D G S
.SUBCKT RQ3G100GN 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 2m
D2       22 11 DDG
R2        2 22 11.2
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=239.20E-6
+ RS=7.9500E-3
+ RD=0
+ VTO=2.3440
+ RDS=40.000E6
+ TOX=2.0000E-6
+ CGSO=552p
+ CGDO=15p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.7
+ ETA=0.7E-3
+ KAPPA=0
+ NFS=19G
.MODEL DDS D
+ IS=13.138E-12
+ N=1.0851
+ RS=1.6603E-3
+ IKF=2.6907
+ CJO=436.41E-12
+ M=.48366
+ VJ=.50867
+ BV=40
+ TT=13.4n
.MODEL DDG D
+ CJO=76.378E-12
+ M=.52546
+ VJ=.64284
+ N=10000
+ FC=-1.0
.MODEL RTH RES
+ TC1=16.2000E-3
+ TC2=9.6000E-6
.ENDS RQ3G100GN
